US05804585
A. 2-Methyl-4,5-(methylenedioxy)benzaldehyde
To DMF (6.5 ml, 83 mmoles) at 0° C. was added phosphorus oxychloride (3.9 ml, 42 mmoles). The solution was stirred 15 minutes at 0° C. followed by the addition of 3,4-(methylenedioxy)toluene (1.0 ml, 8.3 mmoles). The solution was heated to 110° C. upon which it became dark brown. 1.5 hours later the thick dark brown mixture was cooled to ambient temperature then added to ice (100 ml), and extracted with ether (100 ml). The organic layer was dried (MgSO4), filtered and concentrated. Flash chromatography (5% EtOAc/hexanes) provided 0.15 g (11%) of the title compound as a colorless oil.

reactant | DMF | 83 mmoles, 6.5 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 42 mmoles, 3.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,4-(methylenedioxy)toluene | 8.3 mmoles, 1.0 ml | C1OC=2C=C(C=CC2O1)C | C8H8O2
product | 2-Methyl-4,5-(methylenedioxy)benzaldehyde | 0.15 g, 11% | CC1=C(C=O)C=C2C(=C1)OCO2 | C9H8O3
